US04410697
A mixture of 12.8 g (0.1 mole) of 4-chloroaniline, 10.3 g (0.1 mole) of methyl N,N-dimethyl-carbamate, 20 ml of dimethyl-hexadecylamine and 100 ml of high boiling petroleum fractions (bp.: 160°-180° C.) is reacted as described in Example 12. When the reaction has proceeded to about 90%, as indicated by the chromatogram, the reaction is terminated. A solution of N-(4-chlorophenyl)-N',N'-dimethyl-urea (monuron) is obtained, which can be applied directly in the preparation of herbicidal compositions, such as spray liquids or impregnated granules.

reactant | 4-chloroaniline | 0.1 mole, 12.8 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | methyl N,N-dimethyl-carbamate | 0.1 mole, 10.3 g | CN(C(OC)=O)C | C4H9NO2
solvent | dimethyl-hexadecylamine | 20 ml | CN(CCCCCCCCCCCCCCCC)C | C18H39N
product | N-(4-chlorophenyl)-N',N'-dimethyl-urea | ClC1=CC=C(C=C1)NC(=O)N(C)C | C9H11ClN2O
